US07812022B2
Step E: 3-[2-(Methylthio)-4-pyrimidinyl]-2-(3-nitrophenyl)-5-[(phenylmethyl)oxy]-pyrazolo[1,5-a]pyridine
A solution of 1-amino-4-[(phenylmethyl)oxy]pyridinium 2,4,6-trimethylbenzenesulfonate (13.8 mmol; crude) and 2-(methylthio)-4-[(3-nitrophenyl)ethynyl]pyrimidine (6.30 g, 9.22 mmol) in dry-DMF (70 mL) was cooled to 0° C. Aq. K2CO3 (2.75 mL, 18.4 mmol) was added. The mixture was stirred at rt overnight. The reaction mixture was poured into water and extracted with EtOAc. The organic phase was combined, washed with brine, and dried (MgSO4). The solvent was evaporated under reduced pressure. Chromatography on silica gel eluting with hexane/EtOAc gradient (15-50% EtOAc) gave yellow solid (460 mg).

reactant | 1-amino-4-[(phenylmethyl)oxy]pyridinium 2,4,6-trimethylbenzenesulfonate | 13.8 mmol | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=CC=C(C=C1)OCC1=CC=CC=C1
reactant | 2-(methylthio)-4-[(3-nitrophenyl)ethynyl]pyrimidine | 9.22 mmol, 6.30 g | CSC1=NC=CC(=N1)C#CC1=CC(=CC=C1)[N+](=O)[O-] | C13H9N3O2S
reactant | DMF | 70 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 18.4 mmol, 2.75 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | 3-[2-(Methylthio)-4-pyrimidinyl]-2-(3-nitrophenyl)-5-[(phenylmethyl)oxy]-pyrazolo[1,5-a]pyridine | 460 mg | CSC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2)OCC2=CC=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C25H19N5O3S
